US06617339B1
3-(4-(4-Hydroxypiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (173 mg, 0.46 mmol) was dissolved in ethanol (5 ml), treated with sodium borohydride (18 mg, 0.48 mmol) and refluxed 1 hour. Solvent was evaporated, the residue treated with water (5 ml), neutralised with 1 N hydrochloric acid, extracted with dichloromethane (3×10 ml), and dried (magnesium sulfate). Evaporation gave the desired product (76 mg). MS (ESP): 378 (MH+) for C18H20FN3O5.

reactant | 3-(4-(4-Oxopiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 0.46 mmol, 173 mg | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C18H18FN3O5
reactant | sodium borohydride | 0.48 mmol, 18 mg | [BH4-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(4-(4-Hydroxypiperidin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 76 mg | OC1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C18H20FN3O5
